### PR TITLE
feat(RingTheory/RootsOfUnity/LowDegree): quadratic, cubic, quartic, quintic roots of unity

### PR DESCRIPTION
**Pull request by GrigorenkoPV**
Closes https://github.com/leanprover-community/mathlib4/pull/25907

---

Merge of https://github.com/leanprover-community/mathlib4/pull/25907

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 1]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+variable {K : Type*} [Field K]
+
+/-
+Cubic roots of unity
+-/
+
+lemma cubic_cyclotomic_polynomial_roots_of_sq [NeZero (2 : K)] {z s : K}
+    (hs : s * s = -3) : z ^ 2 + z + 1 = 0 ↔ z = -(1 / 2) + s / 2 ∨ z = -(1 / 2) - s / 2 := by
+  suffices 1 * (z * z) + 1 * z + 1 = 0 ↔ z = -(1 / 2) + s / 2 ∨ z = -(1 / 2) - s / 2 by
+    rw [← this]; ring_nf
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
    grind
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 2]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+  rw [quadratic_eq_zero_iff one_ne_zero (by rw [hs, discrim]; norm_num)]
+  ring_nf
+
+lemma cubic_cyclotomic_polynomial_ne_zero_of_sq_ne {z : K} (h : ∀ s : K, s^2 ≠ -3) :
+    z ^ 2 + z + 1 ≠ 0 := by
+  suffices 1 * (z * z) + 1 * z + 1 ≠ 0 by
+    rw[one_mul, one_mul, ← sq] at this
+    exact this
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
    rwa [one_mul, one_mul, ← sq] at this
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 3]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+  exact quadratic_ne_zero_of_discrim_ne_sq (fun s => by rw [discrim]; ring_nf; exact (h s).symm) _
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  exact quadratic_ne_zero_of_discrim_ne_sq (by grind [discrim]) _
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 4]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+    ring_nf
+    rw [I_sq, ← ofReal_pow, Real.sq_sqrt zero_le_three, mul_neg, mul_one,  ofReal_ofNat]
+  rw [cubic_roots_of_unity_of_sq_eq hs]
+  ring_nf
+
+example : {z : ℝ | z ^ 3 = 1} = {1} := by
+  rw [cubic_roots_of_unity_of_sq_ne]
+  intro s
+  have := sq_nonneg s
+  grind only
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  grind [sq_nonneg s]
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 5]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+  have H (z : K) : z ^ 4 - 1 = (z - 1) * (z + 1) * (z ^ 2 + 1) := by
+    ring_nf
+  ext z
+  simp only [Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff]
+  rw [← sub_eq_zero, H]
+  rw [mul_eq_zero_iff_right (by
+    by_contra hc
+    rw [add_eq_zero_iff_eq_neg] at hc
+    exact h z hc)]
+  rw [mul_eq_zero, sub_eq_zero, add_eq_zero_iff_eq_neg]
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  rw [Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff, ← sub_eq_zero, H,
    mul_eq_zero_iff_right ?_, mul_eq_zero, sub_eq_zero, add_eq_zero_iff_eq_neg]
  by_contra hc
  exact h z (neg_eq_of_add_eq_zero_left hc).symm
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 6]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+  rw [sq t₁, ht₁, sq t₂, ht₂, sq s, hs, s4]
+  ring_nf
+  rw [sq s, hs]
+  ring_nf
+  have p2 : (4 : K) ^ 2 = (16 : K) := by norm_num
+  have p3 : (4 : K) ^ 3 = (64 : K) := by norm_num
+  have p4 : (4 : K) ^ 4 = (256 : K) := by norm_num
+  rw [mul_assoc, ← p3, ← mul_pow, mul_assoc, ← p2, ← mul_pow, ← p4, ← mul_pow _ 4, mul_assoc,
+    inv_mul_cancel₀ four_ne_zero, one_pow, mul_one, one_pow, mul_one, one_pow]
+  ring_nf
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  field
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 7]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+lemma quintic_cyclotomic_polynomial_roots_of_sq [NeZero (4 : K)] {s t₁ t₂ : K} (hs : s * s = 5)
+    (ht₁ : t₁ * t₁ = -2 * (5 + s)) (ht₂ : t₂ * t₂ = -2 * (5 - s)) :
+    {z : K | z ^ 4 + z ^ 3 + z ^ 2 + z + 1 = 0} =
+      {(s - 1) / 4 + t₁ / 4,
+       (s - 1) / 4 - t₁ / 4,
+      -(s + 1) / 4 + t₂ / 4,
+      -(s + 1) / 4 - t₂ / 4} := by
+  ext1 z
+  simp only [(quintic_factorize_cyclotomic_polynomial hs ht₁ ht₂), neg_add_rev, mul_eq_zero,
+    sub_eq_zero, or_assoc, Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff]
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  ext
  simp [quintic_factorize_cyclotomic_polynomial hs ht₁ ht₂, sub_eq_zero, or_assoc]
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 8]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+  {z : K | z^5 = 1} = {1,
+      (s - 1) / 4 + t₁ / 4,
+       (s - 1) / 4 - t₁ / 4,
+      -(s + 1) / 4 + t₂ / 4,
+      -(s + 1) / 4 - t₂ / 4} := by
+  have H (z : K) : z ^ 5 - 1 = (z - 1) * (z ^ 4 + z ^ 3 + z ^ 2 + z + 1) := by ring
+  rw [← Set.singleton_union, ← quintic_cyclotomic_polynomial_roots_of_sq hs ht₁ ht₂]
+  ext1 z
+  simp only [Set.mem_setOf_eq, Set.singleton_union, Set.mem_insert_iff]
+  rw [← sub_eq_zero, H, mul_eq_zero, sub_eq_zero]
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  rw [← Set.singleton_union, ← quintic_cyclotomic_polynomial_roots_of_sq hs ht₁ ht₂]
  grind
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 9]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+  ext z
+  simp only [Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff]
+  rw [← sub_eq_zero, H]
+  rw [mul_eq_zero_iff_right (by
+    by_contra hc
+    rw [add_eq_zero_iff_eq_neg] at hc
+    exact h z hc)]
+  rw [mul_eq_zero, sub_eq_zero, add_eq_zero_iff_eq_neg]
+
+example : {z : ℂ | z ^ 4 = 1} = {1, I, -1, -I} := quartic_roots_of_unity_of_sq_eq I_mul_I
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]: I believe examples are not usually seen in Mathlib

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 10]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+lemma quintic_factorize_cyclotomic_polynomial [NeZero (4 : K)] {s t₁ t₂ : K} (hs : s * s = 5)
+    (ht₁ : t₁ * t₁ = -2 * (5 + s)) (ht₂ : t₂ * t₂ = -2 * (5 - s)) (z : K) :
+    z ^ 4 + z ^ 3 + z ^ 2 + z + 1 = (z - ( (s - 1) / 4 + t₁ / 4))
+                                  * (z - ( (s - 1) / 4 - t₁ / 4))
+                                  * (z - (-(s + 1) / 4 + t₂ / 4))
+                                  * (z - (-(s + 1) / 4 - t₂ / 4)) := by
+  have s4 : s ^ 4 = 25 := by
+    calc s ^ 4 = (s * s) * (s * s) := by ring_nf
+    _ = 5 * 5 := by rw [hs]
+    _ = 25 := by norm_num
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  have s4 : s ^ 4 = 25 := by grind
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean (hunk 5 above)
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  grind
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 11]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+lemma quartic_roots_of_unity_of_sq_eq {s : K} (hs : s * s = -1) :
+    {z : K | z ^ 4 = 1} = {1, s, -1, -s} := by
+  have H (z : K) : z ^ 4 - 1 = (z - 1) * (z - s) * (z + 1) * (z + s) := by
+    ring_nf
+    rw [sq s, hs]
+    ring
+  ext z
+  simp only [Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff]
+  rw [← sub_eq_zero, H]
+  simp only [← sub_neg_eq_add, mul_eq_zero, sub_eq_zero, or_assoc]
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
    {z : K | z ^ 4 = 1} = {1, s, -1, -s} := by grind
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 12]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+    rw[one_mul, one_mul, ← sq] at this
+    exact this
+  exact quadratic_ne_zero_of_discrim_ne_sq (fun s => by rw [discrim]; ring_nf; exact (h s).symm) _
+
+lemma cubic_roots_of_unity_of_sq_eq [NeZero (2 : K)] {s : K} (hs : s * s = -3) :
+    {z : K | z^3 = 1} = {1, -(1 / 2) + s / 2, -(1 / 2) - s / 2} := by
+  have H (z : K) : z ^ 3 - 1 = (z - 1) * (z ^ 2 + z + 1) := by ring
+  ext1 z
+  simp only [Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff]
+  rw [← sub_eq_zero, H, ← cubic_cyclotomic_polynomial_roots_of_sq hs, mul_eq_zero, sub_eq_zero]
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  grind [cubic_cyclotomic_polynomial_roots_of_sq hs]
```

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 13]
```diff
@@ -206,3 +206,173 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+
+lemma cubic_roots_of_unity_of_sq_ne (h : ∀ s : K, s^2 ≠ -3) : {z : K | z^3 = 1} = {1} := by
+  have H (z : K) : z ^ 3 - 1 = (z - 1) * (z ^ 2 + z + 1) := by ring
+  ext1 z
+  simp only [Set.mem_setOf_eq, Set.mem_singleton_iff]
+  rw [← sub_eq_zero, H, mul_eq_zero_iff_right (cubic_cyclotomic_polynomial_ne_zero_of_sq_ne h),
+    sub_eq_zero]
```
Comment (LLaurance) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
  grind [cubic_cyclotomic_polynomial_ne_zero_of_sq_ne h]
```

**Comment by joneugster** [comment]
I think you can now comment on the PR to add missing topic labels:

t-ring-theory

_(improvements to the automation are on the way: #34078)_

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 14]
```diff
@@ -206,3 +206,139 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+-/
+
+lemma cubic_cyclotomic_polynomial_roots_of_sq [NeZero (2 : K)] {z s : K}
+    (hs : s * s = -3) : z ^ 2 + z + 1 = 0 ↔ z = -(1 / 2) + s / 2 ∨ z = -(1 / 2) - s / 2 := by
+  suffices 1 * (z * z) + 1 * z + 1 = 0 ↔ z = -(1 / 2) + s / 2 ∨ z = -(1 / 2) - s / 2 by
+    grind
+  rw [quadratic_eq_zero_iff one_ne_zero (by rw [hs, discrim]; norm_num)]
+  ring_nf
+
+lemma cubic_cyclotomic_polynomial_ne_zero_of_sq_ne {z : K} (h : ∀ s : K, s^2 ≠ -3) :
```
Comment (erdOne) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]:
```suggestion
lemma cubic_cyclotomic_polynomial_ne_zero_of_sq_ne {z : K} (h : ¬ IsSquare (-3 : K)) :
```
I think this is more idiomatic.

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 15]
```diff
@@ -206,3 +206,139 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+    z ^ 2 + z + 1 ≠ 0 := by
+  suffices 1 * (z * z) + 1 * z + 1 ≠ 0 by
+    rwa [one_mul, one_mul, ← sq] at this
+  exact quadratic_ne_zero_of_discrim_ne_sq (by grind [discrim]) _
+
+lemma cubic_roots_of_unity_of_sq_eq [NeZero (2 : K)] {s : K} (hs : s * s = -3) :
+    {z : K | z^3 = 1} = {1, -(1 / 2) + s / 2, -(1 / 2) - s / 2} := by
```
Comment (erdOne) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]: I think the more idiomatic way is to use `nthRootsFinset 3 (1 : K)` instead.

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/RingTheory/RootsOfUnity/Complex.lean]: Indeed. They should either be lemmas or be removed.

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 16]
```diff
@@ -206,3 +206,139 @@ theorem Complex.conj_rootsOfUnity {ζ : ℂˣ} {n : ℕ} [NeZero n] (hζ : ζ 
...
+
+open Complex
+
+variable {K : Type*} [Field K]
+
+/-
+Cubic roots of unity
+-/
+
+lemma cubic_cyclotomic_polynomial_roots_of_sq [NeZero (2 : K)] {z s : K}
```
Comment (erdOne) [inline Mathlib/RingTheory/RootsOfUnity/Complex.lean]: I wonder if it should instead take `[Invertible (2 : K)] [IsDomain K]` instead of `[Field K]`.

**Review by erdOne — COMMENTED** [review]
Most of the content should not be in `Complex.lean` because it has nothing to do with complexes.

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean (hunk 15 above)
Comment (GrigorenkoPV) [reply Mathlib/RingTheory/RootsOfUnity/Complex.lean]: Changing `Set` to `FinSet` here leads to needing `DecidableEq K` whenever we try to write something like `{k1, k2, k3}`.

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean (hunk 16 above)
Comment (GrigorenkoPV) [reply Mathlib/RingTheory/RootsOfUnity/Complex.lean]: I think then we would also need `[Neg K] [HSub K K K] [Semiring K]` as well as replace every `_ / 2` with `_ * Invertible.infOf 2)`. Is it really worth it?

Comment (erdOne) [reply Mathlib/RingTheory/RootsOfUnity/Complex.lean]: It should be `[CommRing K]` instead of the `[Neg K] [HSub K K K] [Semiring K]`. And regarding the change from `/ 2` to `⅟2`: Yes there is a tradeoff but I think it is not that bad?

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean (hunk 15 above)
Comment (erdOne) [reply Mathlib/RingTheory/RootsOfUnity/Complex.lean]: Ah that's annoying. Then let's keep it as is.
